US06555700B1
A mixture of penicillin V (1 g, 2.9 mmol), 1-(z,z,z-octadeca-6,9,12-trienoyloxy)-3-hydroxypropane (860 mg, 2.6 mmol), 1,3-dicyclohexylcarbodiimide (620 mg, 3 mmol) and 4-(N,N-dimethylamino)pyridine (catalytic amount) in dichloromethane (30 ml) was stirred overnight at room temperature. The reaction mixture was diluted with hexane (50 ml), filtered and concentrated to dryness. The residue was washed with hexane (3×50 ml) to remove unreacted 1-(z,z,z-octadeca-6,9,12-trienoyloxy)-3-hydroxypropane. The semisolid residue was disolved in diethyl ether (150 ml), washed with water (100 ml) and dried. The ether solution was diluted with hexane (125 ml) and the solution filtered through a bed of silica (4 cm×4 cm). The filtrate was concentrated, yielding 1-(3,3-dimethyl-7-oxo-6([phenoxy acetyl)amino]-4-thia-1-azabicyclo[3.2.0]heptan-2-oyloxy)-3-(z,z,z-octadeca-6,9,12-trienoyloxy)propane as a viscous colourless oil.

reactant | penicillin V | 2.9 mmol, 1 g | CC1([C@@H](N2[C@H](S1)[C@@H](C2=O)NC(=O)COC=3C=CC=CC3)C(=O)O)C | C16H18N2O5S
reactant | 1-(z,z,z-octadeca-6,9,12-trienoyloxy)-3-hydroxypropane | 2.6 mmol, 860 mg | C(CCCC\C=C/C\C=C/C\C=C/CCCCC)(=O)OCCCO | C21H36O3
reactant | 1,3-dicyclohexylcarbodiimide | 3 mmol, 620 mg | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
catalyst | 4-(N,N-dimethylamino)pyridine | CN(C)C1=CC=NC=C1 | C7H10N2
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
solvent | hexane | 50 ml | CCCCCC | C6H14
product | 1-(3,3-dimethyl-7-oxo-6([phenoxy acetyl)amino]-4-thia-1-azabicyclo[3.2.0]heptan-2-oyloxy)-3-(z,z,z-octadeca-6,9,12-trienoyloxy)propane | CC1(C(N2C(C(C2S1)NC(COC1=CC=CC=C1)=O)=O)C(=O)OCCCOC(CCCC\C=C/C\C=C/C\C=C/CCCCC)=O)C | C37H52N2O7S
